US06831080B2
Step B: 1-(3-Aminophenyl)-2,2,2-trifluoroethanone oxime
A mixture of 2,2,2-trifluoro-1-(3-nitrophenyl)ethanone oxime (2.34 g) and 5% Pt(S)/C (2340 mg) in ethanol (530 mL) was hydrogenated at 50 psi for 2 hours. The crude reaction mixture was filtered, and the filtrate was concentrated in vacuo to give the title compound (2 g) as an oil which was used in the next step without purification.

reactant | 2,2,2-trifluoro-1-(3-nitrophenyl)ethanone oxime | 2.34 g | FC(C(=NO)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C8H5F3N2O3
solvent | ethanol | 530 mL | C(C)O | C2H6O
catalyst | Pt(S)/C | 2340 mg | [Pt] | Pt
product | 1-(3-Aminophenyl)-2,2,2-trifluoroethanone oxime | 2 g | NC=1C=C(C=CC1)C(C(F)(F)F)=NO | C8H7F3N2O
